US09284245B2
Pyrene 10.0 g (0.0495 mol), benzoyl chloride 13.9 g (0.0989 mol), and 87 g of 1,2-dichloroethane were put in a flask. 13.2 g (0.0989 mol) of aluminum chloride was slowly added to the solution at room temperature, and the mixture was heated up to 60° C. and agitated for 8 hours. When the reaction was complete, methanol was added to the solution. Then, a precipitate produced therein was filtered, obtaining dibenzoylpyrene.

reactant | Pyrene | 0.0495 mol, 10.0 g | C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H10
reactant | benzoyl chloride | 0.0989 mol, 13.9 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1,2-dichloroethane | 87 g | ClCCCl | C2H4Cl2
reactant | aluminum chloride | 0.0989 mol, 13.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methanol | CO | CH4O
product | dibenzoylpyrene | C(C1=CC=CC=C1)(=O)C=1C=C2C=CC3=CC(=CC4=CC=C(C1)C2=C43)C(C4=CC=CC=C4)=O | C30H18O2
